US06627651B1
To 3-(4-phenylbenzyloxy)-5-oxo-6,7,8,9-tetrahydro-5H-benzocycloheptene (2.90 g, 8.47 mmol) dissolved in dimethyl carbonate (80 ml) was added sodium methoxide (2.29 g, 42.4 mmol), and the resulting mixture was stirred at reflux with heating (110° C.) for 6 hours. The reaction mixture was mixed with 1 N hydrochloric acid (60 ml) under ice cooling and was concentrated under reduced pressure to remove the organic solvent, and then the aqueous layer was extracted with a mixed solvent of ethyl acetate and THF ((30 ml/15 ml)×3). The combined organic layers were dried with anhydrous magnesium sulfate and were then concentrated under reduced pressure, and the residue was subjected to column chromatography (silica gel: 50 g, ethyl acetate/hexane=1/30). The objective fractions were concentrated under reduced pressure, diisopropyl ether was added to the residue and an insoluble material was collected by filtration. The insoluble material was washed with diisopropyl ether and was then dried under reduced pressure to obtain methyl 3-(4-phenylbenzyloxy)-5-oxo-6,7,8,9-tetrahydro-5H-benzocycloheptene-6-carboxylate (2.47 g, 6.17 mmol, 73%).

reactant | 3-(4-phenylbenzyloxy)-5-oxo-6,7,8,9-tetrahydro-5H-benzocycloheptene | 8.47 mmol, 2.90 g | C1(=CC=CC=C1)C1=CC=C(COC2=CC3=C(CCCCC3=O)C=C2)C=C1 | C24H22O2
reactant | sodium methoxide | 42.4 mmol, 2.29 g | C[O-].[Na+]
reactant | hydrochloric acid | 1 N, 60 ml | Cl | ClH
reactant | dimethyl carbonate | 80 ml | C(OC)(OC)=O | C3H6O3
product | methyl 3-(4-phenylbenzyloxy)-5-oxo-6,7,8,9-tetrahydro-5H-benzocycloheptene-6-carboxylate | 6.17 mmol, 2.47 g, 73% | C1(=CC=CC=C1)C1=CC=C(COC2=CC3=C(CCCC(C3=O)C(=O)OC)C=C2)C=C1 | C26H24O4
